US04107308
6,8-Dimethyl-imidazo[1,5-d]-as-triazine-4(3H)-thione
A mixture of 30.26 gm. of 3-[(2,5-dimethyl-4-imidazolyl)methylene]dithiocarbazic acid methyl ester and 125 ml. of diphenyl ether is reacted as described in Example 23 giving a solid which is the desired product, m.p. 287.5°-290° C.

reactant | 3-[(2,5-dimethyl-4-imidazolyl)methylene]dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1C)C)=S | C8H12N4S2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6,8-Dimethyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | CC1=NC(=C2N1C(NN=C2)=S)C | C7H8N4S
